US04062978
4-(p-Cyclohexylphenyl)-2-butanone
To a stirred solution of aluminium chloride (0.15 mole) in cyclohexylbenzene (0.5 mole) at 10° - 15° C was added dropwise methyl vinyl ketone. The resulting mixture was left overnight at room temperature and worked up as above The crude ketone was purified by distillation, b.p. 150 - 60 (2 mm), followed by column chromatography using silica as support and petrol/ethyl acetate as eluants.

reactant | aluminium chloride | 0.15 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclohexylbenzene | 0.5 mole | C1(CCCCC1)C1=CC=CC=C1 | C12H16
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | 4-(p-Cyclohexylphenyl)-2-butanone | C1(CCCCC1)C1=CC=C(C=C1)CCC(C)=O | C16H22O
